US07598264B2
6-(4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
To methyl 6-(4-fluorobenzyl)-4-hydroxy-3,5-dioxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (0.178 g, 0.514 mmol) in wet methanol was added N,N-dimethylamine in MeOH (4.0 eq.). The reaction mixture was put in a microwave reactor where it was heated at 130° C. for 1.5 hours, after which the reaction mixture was concentrated under vacuum. The residue was purified by reverse phase HPLC eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound as a solid. Alternatively, the starting material can be treated with LiOH in 1:1:1 THF/MeOH/H2O to give the product.

reactant | methyl 6-(4-fluorobenzyl)-4-hydroxy-3,5-dioxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 0.514 mmol, 0.178 g | FC1=CC=C(CN2C(C3=C(C(NC(=C3CC2)C(=O)OC)=O)O)=O)C=C1 | C17H15FN2O5
reactant | N,N-dimethylamine | CNC | C2H7N
solvent | methanol | CO | CH4O
solvent | MeOH | 4.0 eq. | CO | CH4O
product | 6-(4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | FC1=CC=C(CN2C(C3=C(C(NC(=C3CC2)C(=O)O)=O)O)=O)C=C1 | C16H13FN2O5
